US05719157
A mixture of ethyl 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (3.0 g), 1-ethyl-2-mercaptoimidazole (1.0 g), potassium carbonate (1.1 g) and N,N-dimethylformamide (30 ml) was stirred at room temperature for 3 hours. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform/ethyl acetate (=3/2, v/v) gave ethyl 2-[(1-ethylimidazol-2-yl)thiomethyl]-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (2.8 g, 78%) which was then recrystallized from ethyl acetate-hexane.

reactant | ethyl 2-chloromethyl-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 3.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | 1-ethyl-2-mercaptoimidazole | 1.0 g | C(C)N1C(=NC=C1)S | C5H8N2S
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 2-[(1-ethylimidazol-2-yl)thiomethyl]-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 2.8 g, 78% | C(C)N1C(=NC=C1)SCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C28H31N3O6S
